US09024018B2
N-(Benzyloxy)-3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide (RR-002)
O-benzylhydroxylamine (195 μL, 1.68 mmol, 2 eq.) was added to a solution of crude 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbonyl chloride (200 mg, 0.84 mmol; see Arrowsmith et al., J. Med. Chem., 2002, Vol. 45, No. 25, p. 5458) in THF (6 mL) and a precipitate formed instantly. The resulting suspension was stirred for 1 hour and 30 minutes and was then poured into ice. The suspension was diluted with water and the precipitate was filtered and washed successively with water, ethyl acetate and diethyl ether to give 158 mg of the pure title compound as an off-white solid (63% yield). δH (DMSO-d6): 11.9 (1H, s), 8.85 (1H, s), 7.42-7.50 (2H, m), 7.36-7.42 (3H, m), 4.96 (2H, s), 3.88 (3H, s).

reactant | O-benzylhydroxylamine | 1.68 mmol, 195 μL, 2 eq. | C(C1=CC=CC=C1)ON | C7H9NO
reactant | 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbonyl chloride | CN1N=NC=2N(C1=O)C=NC2C(=O)Cl | C6H4ClN5O2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-(Benzyloxy)-3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide | 158 mg, 63% yield | C(C1=CC=CC=C1)ONC(=O)C=1N=CN2C1N=NN(C2=O)C | C13H12N6O3
